US08461175B2
342 mg of 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-7-iodo-2H-pyrazolo[4,3-c]isoquinoline are introduced into 13 ml of 1,4-dioxane. 74 mg of 4-pyrazoleboronic acid, 77 mg of Pd(PPh3)4 and 165 mg of sodium carbonate are added. The mixture is heated at reflux for 4 h 30 min. After cooling, the mixture is poured into water, extracted with AcOEt, washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a DCM/methanol mixture (95/05 by vol.), to give 136 mg of 3-bromo-5-(2,6-difluorophenyl)-7-(1H-pyrazol-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinoline (white foam), which is used as it is in the following step.

reactant | 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-7-iodo-2H-pyrazolo[4,3-c]isoquinoline | 342 mg | BrC=1N(N=C2C1N=C(C=1C=C(C=CC21)I)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C22H21BrF2IN3OSi
reactant | 1,4-dioxane | 13 ml | O1CCOCC1 | C4H8O2
reactant | 4-pyrazoleboronic acid | 74 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | sodium carbonate | 165 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 3-bromo-5-(2,6-difluorophenyl)-7-(1H-pyrazol-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinoline | 136 mg | BrC=1N(N=C2C1N=C(C=1C=C(C=CC21)C=2C=NNC2)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C25H24BrF2N5OSi
